* PSPICE PWL REPEAT source syntax not supported by this ngspice build
.option ngbehavior=ps
V1 in 0 PWL REPEAT FOREVER (0 0 1u 1 2u 0) ENDREPEAT
R1 in 0 1k
.print tran v(in)
.tran 0.5u 5u
.end
